US09422272B2
1-(methyloxy)-3-{[(methyloxy)methyl]oxy}benzene
To a solution of 3-(methyloxy)phenol (10.38 g, 84 mmol) in tetrahydrofurane (100 ml, SCRC) was added NaH (60% wt., 1.824 g, 76 mmol, Aldrich) portionwise under ice-cooling. The reaction mixture was stirred at room temperature for 1 hour and bromomethyl methyl ether (9.5 g, 76 mmol, SCRC) was then added. The resulting mixture was stirred at room temperature for 2 hours and water (50 ml) was added. The reaction mixture was extracted with ethyl acetate (2 times 50 ml, SCRC) and the combined organic layers were dried over sodium sulphate, evaporated. The residue was purified by column chromatography on silica gel (EtOAc: PE=1:100) to afford the title compound (10.2 g) as a colorless liquid.

reactant | 3-(methyloxy)phenol | 84 mmol, 10.38 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | NaH | 76 mmol, 1.824 g | [H-].[Na+]
reactant | bromomethyl methyl ether | 76 mmol, 9.5 g | COCBr | C2H5BrO
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 1-(methyloxy)-3-{[(methyloxy)methyl]oxy}benzene | 10.2 g | COC1=CC(=CC=C1)OCOC | C9H12O3
